US07847101B2
5-(3-Aminopropyl)-4-benzothiazol-2-yl-2H-pyrazol-3-ylamine (590-86A):
The title compound (12 mg) was prepared using 130 mg (0.39 mmol) of 4-benzothiazol-2-yl-5-(3-bromopropyl)-2H-pyrazol-3-ylamine, which was derived from 3-(5-amino-4-benzothiazol-2-yl-1H-pyrazol-3-yl)-propan-1-ol, and a saturated solution of ammonia gas in ethanol. MS (m/z, ES+): 274.2 (M+1, 100%), 257.2 (M-NH2, 70%).

reactant | 4-benzothiazol-2-yl-5-(3-bromopropyl)-2H-pyrazol-3-ylamine | 0.39 mmol, 130 mg | S1C(=NC2=C1C=CC=C2)C2=C(NN=C2CCCBr)N | C13H13BrN4S
reactant | 3-(5-amino-4-benzothiazol-2-yl-1H-pyrazol-3-yl)-propan-1-ol | NC1=C(C(=NN1)CCCO)C=1SC2=C(N1)C=CC=C2 | C13H14N4OS
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 5-(3-Aminopropyl)-4-benzothiazol-2-yl-2H-pyrazol-3-ylamine | 12 mg | NCCCC=1C(=C(NN1)N)C=1SC2=C(N1)C=CC=C2 | C13H15N5S
